US20010041709A1
To a solution of 3-(2,5-dichlorophenyl}-2-methyl-3-butyn-2-ol (840 mg, 3.46 mmol) in dry toluene (15 mL) was added sodium hydroxide pellets (45 mg) at room temperature. The reaction mixture was heated and a mixture of toluene and formed acetone was distilled of. The reaction mixture was washed with aqueous potassium carbonate (1 M, 2.5 mL), water (2.5 mL) and brine (2.5 mL). The organic phase was dried and evaporated to give the desired =product 1,3-dichloro-phenyl acetylene in 537 mg (91%) yield. 1H NMR (300 MHz, CDCl3) δ: 3.15 (1H, s), 7.37 (3H, s). . =c) To a solution of 1,3-dichloro-phenyl acetylene (6.07 g, 35.5 mmol) in dry THF (60 mL) was added palladium acetate (186 mg, 0.68 mmol), ethyl 2-butynoate (5.97 g, 53.2 mmol) and tris (2,6-dimethoxyphenyl)phosphine (316 mg, 0.68 mmol) at room temperature. The reaction mixture was stirred for 18 h and filtered. The filtrate was washed with water (10 mL), and the water phase was extracted with ether (10 mL). The combined organic phases were dried and evaporated. The residue was purified by column chromatography using heptane:THF (20:1) as eluent. (E)-3-Methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester was isolated in 4.65 g (46%) yield.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1,3-dichloro-phenyl acetylene | ClC1(CC(=CC=C1)Cl)C#C | C8H6Cl2
reactant | 1,3-dichloro-phenyl acetylene | 35.5 mmol, 6.07 g | ClC1(CC(=CC=C1)Cl)C#C | C8H6Cl2
reactant | ethyl 2-butynoate | 53.2 mmol, 5.97 g | C(C#CC)(=O)OCC | C6H8O2
reactant | tris (2,6-dimethoxyphenyl)phosphine | 0.68 mmol, 316 mg | COC1=C(C(=CC=C1)OC)P(C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC | C24H27O6P
reactant | THF | 60 mL | C1CCOC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.68 mmol, 186 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetone | CC(=O)C | C3H6O
product | (E)-3-Methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(\C=C(\C#CC1=CC(=CC(=C1)Cl)Cl)/C)=O | C14H12Cl2O2
